US07902356B2
4-(2-Benzyloxy-ethyl)-2,2,6,6-tetramethyl-morpholine
Dissolve 500 mg (2.79 mmol) of 2,2,6,6-tetramethyl-morpholine (500 mg, 2.79 mmol) in dichloroethane (10 mL). Add benzyloxy-acetaldehyde (470 μl, 3.35 mmol) and stir at room temperature for 20 min. Add sodium triacetoxyborohydride (770 mg, 3.63 mmol) and continue stirring at room temperature for 20 h. Pour the reaction mixture into 100 mL of 1N NaOH (100 mL) and extract with CH2Cl2 (2×100 mL). Wash the combined organic layers with brine (100 mL). Purify using silica gel chromatography, using a gradient of 0% to 10% (2N NH3 in MeOH)/CHCl3 as eluent, to give 490 mg (63%) of the desired product. MS (ES+) 278.3 (M+1)+.

reactant | 2,2,6,6-tetramethyl-morpholine | 2.79 mmol, 500 mg | CC1(CNCC(O1)(C)C)C | C8H17NO
reactant | benzyloxy-acetaldehyde | 3.35 mmol, 470 μl | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | sodium triacetoxyborohydride | 3.63 mmol, 770 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N, 100 mL | [OH-].[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 4-(2-Benzyloxy-ethyl)-2,2,6,6-tetramethyl-morpholine | 490 mg, 63% | C(C1=CC=CC=C1)OCCN1CC(OC(C1)(C)C)(C)C | C17H27NO2
